.SUBCKT LIFEPO4_CELL  CEL+  CEL-  SOC  PARAMS:
+ NOMINAL_CAPACITY = 180
+ INTERNAL_RESISTANCE = 0.6m
+ INITIAL_SOC = 1

E_OCV      CELP  CELN  TABLE {V(SOC)} =
+ (0, 2.5)  (0.03, 2.8)  (0.05, 2.9)
+ (0.075, 3)  (0.1, 3.1)  (0.12, 3.17)
+ (0.2, 3.2)  (0.3, 3.23)  (0.4, 3.28)
+ (0.5, 3.29)  (0.6, 3.3)  (0.65, 3.3)
+ (0.7,3.31)  (0.76,3.32)  (0.8, 3.33)
+ (0.9, 3.34)  (0.95, 3.35)  (0.97, 3.37)
+ (0.98, 3.38)  (1, 3.5)

V_CSENSE   CELN  CEL-
R_INT      CELP  CEL+  {INTERNAL_RESISTANCE}
R_CONV     CEL+  CEL-  1e12

CCELL_CAPACITY  SOC  0   {3600 * NOMINAL_CAPACITY}
GBAT_CURRENT    0  SOC  VALUE={I(V_CSENSE) * IF(V(SOC) < 0 
+ & I(V_CSENSE) <0 ,0,1) * IF(V(SOC) > 1 & I(V_CSENSE) > 0,0,1) }

RSOC  SOC  0  1e12

.IC V(SOC)={INITIAL_SOC}

.ENDS